US07056932B2
The starting material 6-pyrrolidin-1-yl-2,3-dihydro-isoindol-1-one was prepared from 6-amino-2,3-dihydro-isoindol-1-one (CAS 675109-45-2) and 1,4-dibromobutane in analogy to the precedure described in example 56.

reactant | 6-amino-2,3-dihydro-isoindol-1-one | NC1=CC=C2CNC(C2=C1)=O | C8H8N2O
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 6-pyrrolidin-1-yl-2,3-dihydro-isoindol-1-one | N1(CCCC1)C1=CC=C2CNC(C2=C1)=O | C12H14N2O
